US05556864
68(a) 2-(2-{2-[2-(3,5-Dimethoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine
Following a procedure similar to that described in Example 35(a), 1.00 g of 2-[2-(3,5-dimethoxyphenyl)ethyl]phenol (prepared as described in Preparation 27), 1.30 g of potassium t-butoxide and 1.06 g of 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride were reacted in 10 ml of dimethylacetamide. The mixture was then worked up as described in Example 35(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 1.15 g (yield 80%) of the title compound as a colorless oil.

reactant | 2-[2-(3,5-dimethoxyphenyl)ethyl]phenol | 1.00 g | COC=1C=C(C=C(C1)OC)CCC1=C(C=CC=C1)O | C16H18O3
reactant | potassium t-butoxide | 1.30 g | CC(C)([O-])C.[K+]
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 1.06 g | Cl.ClCCC1N(CCC1)C
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 2-(2-{2-[2-(3,5-Dimethoxyphenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine | 1.15 g, yield 80% | COC=1C=C(C=C(C1)OC)CCC1=C(OCCC2N(CCC2)C)C=CC=C1 | C23H31NO3
